datasets/10k_Mayr_OG.csv
SMILES Labelled
F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1.[S-:10][C:61]#[N:62]>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([S:10][C:61]#[N:62])[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10=20
"CN1CC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]1)=[CH:32]2.[C:10](=[C:11]=[N-:12])([C:61]#[N:62])[C:73]1=[CH:74][CH:75]=[CH:76][CH:84]=[CH:85]1>>CN1CC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH:20]([C:10]([C:11]#[N:12])([C:61]#[N:62])[C:73]1=[CH:74][CH:75]=[CH:76][CH:84]=[CH:85]1)[C:41]1=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]1)=[CH:32]2 10,11=10,20;12=11,12"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].[O+]#C[Fe-3:63]123(C#[O+])(C#[O+])C4C[CH:10]=[CH:11][CH:62]1C2C43>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH:10]2CC3C4C5[CH:62]([CH+:11]2)[Fe-3:63]345(C#[O+])(C#[O+])C#[O+])/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)=[CH:22]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25].C[C:10](C)=[CH:11][O:12][Si:63](C)(C)C>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([C:10](C)(C)[CH:11]=[O+:12][Si:63](C)(C)C)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C[Si:63](C)(C)[O:12][C:11](=[CH2:10])/[CH:72]=[CH:73]/[O:74]C>>C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][C:11](=[O+:12][Si:63](C)(C)C)/[CH:72]=[CH:73]/[O:74]C)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC1(C)[O:62][C:111](=[O:112])[C-:10]([C:91]2=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]2)[C:72](=[O:73])[O:83]1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([C:10]1([C:91]2=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]2)[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:111]1=[O:112])[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.C[C:11]1=[CH:10][NH:14][C:13](C)=[CH:12]1>>CC1=CC=C([S:32]([N-:21][CH:20]([CH:10]2[C:11](C)=[CH:12][C:13](C)=[NH+:14]2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"C[O:33][C:22]([CH:21]=[CH2:20])=[O:23].C[Si](C)(C)C12[C:62]3([CH:11]=[CH2:10])[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])C#[O+]>>C[Si](C)(C)C12[C:62]3([CH+:11][CH2:10][CH2:20][CH:21]=[C:22]([O-:23])[O:33]C)[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])C#[O+] 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC1=CC(C)=C(N2C(C3=CC=CC=C3)=N[N+](C3=C(C)C=C(C)C=C3C)=C2/[C:61]([O-:10])=[C:62](\C)C2=CC=CC=C2)C(C)=C1>>CC1=CC(C)=C(N2C(C3=CC=CC=C3)=N[N+](C3=C(C)C=C(C)C=C3C)=C2/[C:61]([O:10][CH:20]([C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)=[C:62](\C)C2=CC=CC=C2)C(C)=C1 10=20;20,21=21,22;22,23=23,24;24,25=25"
CN1CCC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CCC3)[CH:45]=[CH:46]1)=[CH:32]2.O=C1C2=C(C=CC=C2)C(=O)N1C[C@@H]1CCC[NH:10]1>>CN1CCC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH:20]([NH+:10]1CCC[C@H]1CN1C(=O)C3=C(C=CC=C3)C1=O)[C:41]1=[CH:42][C:43]3=[C:44](N(C)CCC3)[CH:45]=[CH:46]1)=[CH:32]2 10=20
CC1=CC(C)=C([N+:63]2=[C:62]([C:71]([C-:10](C)C3=CC=CC=C3)=[O:72])[N:66](C3=C(C)C=C(C)C=C3C)[CH:65]=[CH:64]2)C(C)=C1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([C:10](C)(C2=CC=CC=C2)[C:71]([C:62]2=[N+:63](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:65][N:66]2C2=C(C)C=C(C)C=C2C)=[O:72])[C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1 10=20
"C1C[N:12]2CC[S:62][C:11]2=[N:10]1.CCC[C:20](C)=[O:21]>>CCC[C:20](C)([N:10]1CC[N+:12]2=[C:11]1[S:62]CC2)[O-:21] 10,11=10,20;12=11,12;20,21=21"
"O=[N+]([O-])C1=CC=C([N:31]=[C:20]=[S:21])C=C1.[CH:10](=[N+:11]([O-:12])[O-:62])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:86])[CH:82]=[CH:83]1>>O=[N+]([O-])C1=CC=C([N:31]=[C:20]([CH:10]([N+:11](=[O:12])[O-:62])[C:71]2=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:86])[CH:82]=[CH:83]2)[S-:21])C=C1 10,11=10,20;12=11,12;20,21=21"
